US08466282B2
6-fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole
4-Fluoro-2-(4-methoxybutylamino)aniline (4.28 g) was dissolved in acetic acid (100 ml), methyl 2,2,2-trichloroethanimidate (2.49 ml) was added dropwise, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was azeotroped with toluene. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (6.53 g).

reactant | 4-Fluoro-2-(4-methoxybutylamino)aniline | 4.28 g | FC1=CC(=C(N)C=C1)NCCCCOC | C11H17FN2O
reactant | methyl 2,2,2-trichloroethanimidate | 2.49 ml | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole | 6.53 g | FC=1C=CC2=C(N(C(=N2)C(Cl)(Cl)Cl)CCCCOC)C1 | C13H14Cl3FN2O
